US08975265B2
1-{4-[8-(4-fluorophenyl)-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutylamine
81 mg (0.15 mmol) (1-{4-[8-(4-Fluorophenyl)-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert.-butyl ester, intermediate example Int-300-0, were dissolved in 7 mL 4 M hydrogen chloride in dioxane. The reaction mixture was stirred over night at room temperature. After evaporation of the solvent the residue was dissolved in methanol and purified by chromatography on silicagel (amine phase, eluents: methanol/ammonia) followed by an additional chromatography (amine phase, eluents: ethyl acetate/hexane) yielding 38.2 mg (55.2%) of the title compound.

reactant | (1-{4-[8-(4-Fluorophenyl)-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert.-butyl ester | 0.15 mmol, 81 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2C2=CC=C(C=C2)F)C1C1=CC=CC=C1)=O | C34H32FN3O2
solvent | hydrogen chloride | 4 M, 7 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-{4-[8-(4-fluorophenyl)-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutylamine | 38.2 mg, 55.2% | FC1=CC=C(C=C1)C=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)N)C2=CC=CC=C2 | C29H24FN3
